US05750213
First, 2.8 g of 13-[trans-4-(2,3-difluorophenyl)cyclohexyl]tridecyl 2,2-bis(6-hydroxyhexyl)acetate, 1 g of triethylamine, and 30 ml of benzene were placed in a 100 ml flask. A small amount of benzene in which 0.9 g of acryloyl chloride was dissolved was added dropwise to the reaction mixture under ice water cooling. The reaction mixture was allowed to warm to room temperature and stirred for 3 hours. The reaction mixture was poured into water, and an organic layer was extracted with ether. The ether layer was washed with diluted hydrochloric acid and water in this order, and then dried over anhydrous sodium sulfate. The solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/toluene=1/20) to obtain 1.12 g of 13-[trans-4-(2,3-difluorophenyl)cyclohexyl]tridecyl 2,2-bis(6-acryloyloxyhexyl)acetate (Y: 33%). The compound thus obtained was liquid at room temperature. The compound had a purity of 99.6% by HPLC and of 1 spot by TLC.

reactant | 13-[trans-4-(2,3-difluorophenyl)cyclohexyl]tridecyl 2,2-bis(6-hydroxyhexyl)acetate | 2.8 g | OCCCCCCC(C(=O)OCCCCCCCCCCCCC[C@@H]1CC[C@H](CC1)C1=C(C(=CC=C1)F)F)CCCCCCO | C39H66F2O4
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | water | O | H2O
reactant | acryloyl chloride | 0.9 g | C(C=C)(=O)Cl | C3H3ClO
product | 13-[trans-4-(2,3-difluorophenyl)cyclohexyl]tridecyl 2,2-bis(6-acryloyloxyhexyl)acetate | 1.12 g, 33% | C(C=C)(=O)OCCCCCCC(C(=O)OCCCCCCCCCCCCC[C@@H]1CC[C@H](CC1)C1=C(C(=CC=C1)F)F)CCCCCCOC(C=C)=O | C45H70F2O6
